US04752645
(B) α-Methyl-[2-(2-nitrophenyl)-1-(4-methoxyphenyl)-ethyl]propanedioic acid, dimethyl ester
To a solution of [2-(2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (4.0 g, 10.33 mmol) in 19 ml of dimethylformamide (0° C., argon) was added sodium hydride dispersion (0.5 g, 12.40 mmol). Stirring at 0° C. was continued for 5 minutes. Iodomethane was added (3.21 ml, 51.63 mmol) and the reaction was carried out at room temperature for 2 hours, 15 minutes. Ethyl acetate and 1M hydrochloric acid were added, the aqueous layer was washed with ethyl acetate, the combined ethyl acetate layers were washed with 1M hydrochloric acid (two times), saturated aqueous potassium carbonate solution, brine, dried over magnesium sulfate and evaporated in vacuo to yield 4.61 g of a viscous yellow oil. The oil was washed with several portions of hexane. Recrystallization of the residue (3.88 g of a sticky yellow solid) from methanol two times, (1 crop each) yielded 2.69 g of a white crystalline solid, melting point 82°-84° C.

reactant | [2-(2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 10.33 mmol, 4.0 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC | C20H21NO7
reactant | sodium hydride | [H-].[Na+]
reactant | Iodomethane | IC | CH3I
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Methyl-[2-(2-nitrophenyl)-1-(4-methoxyphenyl)-ethyl]propanedioic acid, dimethyl ester | 4.61 g | CC(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C21H23NO7
